US05665718
2 g (7.8 mmol) of 7-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile and 1.1 g (15.6 mmol) of hydroxylamine hydrochloride were added to a freshly prepared solution of sodium methylate in methanol (from 0.27 g (11.7 mmol) of sodium in 50 ml of methanol), whereupon the mixture was stirred at room temperature for 16 hours. Subsequently, the suspension was evaporated and treated with 100 ml of water. The precipitate obtained was filtered off and dried in a high vacuum. There were obtained 2 g (89%) of (E)-and/or (Z)-3-(amino-hydroxyimino-methyl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as a colourless foam, Rf=0.25 (silica gel, methylene chloride/methanol 9:1).

reactant | 7-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 7.8 mmol, 2 g | FC1=CC=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O | C13H9FN4O
reactant | hydroxylamine hydrochloride | 15.6 mmol, 1.1 g | Cl.NO
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 11.7 mmol, 50 ml, 0.27 g | CO | CH4O
reactant | sodium | 11.7 mmol | [Na] | Na
product | (Z)-3-(amino-hydroxyimino-methyl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | N\C(\C=1N=CN2C1CN(C(C1=C2C=CC=C1F)=O)C)=N/O | C13H12FN5O2
